US04359420
A mixture of 910 ml of diethyl malonate and 3.0 liters of tetrahydrofuran is cooled to 0° C. while stirring under argon and treated portionwise with 350 g of sodium hydride (55 percent oil dispersion) in such a manner that the temperature does not exceed 15° C. Thereafter, the mixture is stirred at room temperature overnight, cooled to 0°-5° C. and 290 ml of diethylchlorophosphate are added dropwise over a period of 15 minutes. After a further 2 hours at room temperature, the mixture is treated slowly with a suspension, warmed to ca 45° C., of 190 g of b 4-methyl-3H-1,4-benzodiazepine-2,5(1H,4H)-dione in 2 liters of tetrahydrofuran, the addition taking ca 1 hour. The mixture is stirred at room temperature overnight, cooled to 5° C. and treated dropwise with 350 ml of glacial acetic acid. There is thus obtained a thick slurry which is again made well stirrable by the addition of 500 ml of water. The tetrahydrofuran is distilled off from the mixture and the partially crystalline residue is partitioned between ether and water. The organic phase is washed with water, dried and concentrated. The red-brown coloured residue is dissolved in 2 liters of boiling n-hexane and then cooled. The mixture is left to stand at 2° C. overnight and the resulting crystallisate is filtered off under suction. The light yellow crystals are subsequently dissolved in 800 ml of hot toluene and crystallised by the addition of 600 ml of n-hexane and scratching. After standing in the cold overnight, the crystals are filtered off under suction and dried at 50° C. in vacuo. There is obtained diethyl (1,3,4,5-tetrahydro-4-methyl-5-oxo-2H-1,4-benzodiazepin-2ylidene)malonate in the form of white crystals of melting point 139° C.

reactant | diethyl malonate | 910 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 350 g | [H-].[Na+]
reactant | diethylchlorophosphate | 290 ml | C(C)OP(=O)(OCC)Cl | C4H10ClO3P
reactant | 4-methyl-3H-1,4-benzodiazepine-2,5(1H,4H)-dione | CN1CC(NC2=C(C1=O)C=CC=C2)=O | C10H10N2O2
solvent | tetrahydrofuran | 2 liters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.0 liters | O1CCCC1 | C4H8O
solvent | water | 500 ml | O | H2O
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
product | diethyl (1,3,4,5-tetrahydro-4-methyl-5-oxo-2H-1,4-benzodiazepin-2ylidene)malonate | CN1CC(NC2=C(C1=O)C=CC=C2)=C(C(=O)OCC)C(=O)OCC | C17H20N2O5
